US06069156
To a solution of methyl 2-acetamido-3-acetoxybenzoate (1.72 g) in methanol (9 ml) was added powdered potassium carbonate (1.4 g), and the mixture was stirred for 20 minutes. The resulting solid was removed by filtration and washed with methanol. The filtrate was evaporated in vacuo, and the residue was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with brine, dried over sodium sulfate and evaporated in vacuo. The residue was triturated with a mixture of isopropyl ether and hexane to give methyl 2-acetamido-3-hydroxybenzoate (1.21 g) as solid.

reactant | methyl 2-acetamido-3-acetoxybenzoate | 1.72 g | C(C)(=O)NC1=C(C(=O)OC)C=CC=C1OC(C)=O | C12H13NO5
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 9 ml | CO | CH4O
product | methyl 2-acetamido-3-hydroxybenzoate | 1.21 g | C(C)(=O)NC1=C(C(=O)OC)C=CC=C1O | C10H11NO4
